US04258049
A mixture of 39.3 g. (0.1 mole) of 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)-N-tosyl-benzylamine, one liter of dioxane and 80 ml. of 6 N hydrochloric acid is refluxed for six hours and allowed to stand for sixteen hours. The mixture is poured into two liters of water and extracted with ether. The aqueous phase is made alkaline with concentrated ammonium hydroxide and extracted with chloroform. The chloroform extract is washed, dried and evaporated to yield 7-methoxy-1-methylisoquinoline.

reactant | 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)-N-tosyl-benzylamine | 0.1 mole | COC=1C=C(C(C)N(S(=O)(=O)C2=CC=C(C)C=C2)CC(OC)OC)C=CC1 | C20H27NO5S
reactant | dioxane | one liter | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | two liters | O | H2O
product | 7-methoxy-1-methylisoquinoline | COC1=CC=C2C=CN=C(C2=C1)C | C11H11NO
